Example 01

.param a0_entry=0.1
.param b0_entry=0.01
.param density =850
.param viscosity =0.000006
.param rout_entry =0.9
.param rin_entry =0.8
.param r1_entry1 =0.8
.param r2_entry1=0.81
.param r1_entry2 =0.89
.param r2_entry2=0.9
.param FlowRate =0.025

I_M 0 N1 {FlowRate}

X_entry1   N1 0 N2 entry params: a0={a0_entry}, b0={b0_entry}, ro={density}, v={viscosity}, rout={rout_entry},
+rin={rin_entry},r1={r1_entry1},r2={r2_entry1}

X_entry2   N1 0 N3 entry params: a0={a0_entry}, b0={b0_entry}, ro={density}, v={viscosity}, rout={rout_entry},
+rin={rin_entry},r1={r1_entry2},r2={r2_entry2}

.subckt entry m_in m_out v_vel params: a0=1, b0=1, ro=1, v=1, rout=1, rin=1, r1=1, r2=1
.param D0 = {2*a0*b0/(a0+b0)}
.param F1 = {(rout-rin)*a0*(rout+rin)/(r2+r1)}
.param F0 = {(r2-r1)*a0}
.param fraction = {F0/F1}
.func 	Q(m) {m/ro}
.func  	vel(m) {Q(m)/(a0*b0)}
.func 	R(x) {x*D0/v}
*Changed function
.func xi(x) {40*pow(R(x),-0.9) + 90*pow(fraction,-0.003)-80}
Vmas m_in msx {0}
Rmas msx msy 1e-6
*The pressure drop:
Exm msy m_out value={xi(V(v_vel))*ro*V(v_vel)*V(v_vel)/2}
Hmss mss 0 Vmas 1
*Velocity:
Guv 0 v_vel value={vel(V(mss))}
Ruv 0 v_vel 1
.ends

.OP
.SAVE V(N1) V(N2) V(N3)
.end